US04287197
(S)-1,5,10,10a-Tetrahydrothiazolo[3,4-b]-isoquinoline-3-thione (8.8 g) is dissolved in methylene chloride (100 cc), and benzyl iodide (9.5 g) is added. After 48 hours at a temperature of about 20° C., diisopropyl ether (200 cc) is added. The resulting precipitate is filtered off, washed with diisopropyl ether and dried at 20° C. under reduced pressure (1 mm Hg; 0.13 kPa). (S)-3-Benzylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide (15.6 g) is thus obtained.

reactant | (S)-1,5,10,10a-Tetrahydrothiazolo[3,4-b]-isoquinoline-3-thione | 8.8 g | C1SC(N2CC=3C=CC=CC3C[C@H]21)=S | C11H11NS2
reactant | benzyl iodide | 9.5 g | C(C1=CC=CC=C1)I | C7H7I
reactant | diisopropyl ether | 200 cc | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 100 cc | C(Cl)Cl | CH2Cl2
product | (S)-3-Benzylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide | 15.6 g | [I-].C(C1=CC=CC=C1)SC=1SC[C@H]2[N+]1CC=1C=CC=CC1C2 | InChI=1S/C18H18NS2.HI/c1-2-6-14(7-3-1)12-20-18-19-11-16-9-5-4-8-15(16)10-17(19)13-21-18;/h1-9,17H,10-13H2;1H/q+1;/p-1/t17-;/m0./s1
